US05043326
Preparation of Ipriflavon-α-cyclodextrin inclusion complex having a molar ratio of 1:2
0.5 g (1.78 mmoles) of Ipriflavon were dissolved in 10 ml of acetone in pulg mortar and 4.0 g (3.70 mmoles) of α-cyclodextrin of 10% by weight moisture content and 2 ml of distilled water were added. The light suspension thus obtained was homogenized with a standing rubbing until the solvent was evaporated. Thereafter the product thus obtained was dried for 24 hours at 60° C. It contains 11.1% of active ingredient and also free α-cyclodextrin. Molar ratio of Ipriflavon to α-cyclodextrin=1:2.1.

reactant | Ipriflavon | 1.78 mmoles, 0.5 g | CC(C)OC=1C=CC2=C(C1)OC=C(C2=O)C=3C=CC=CC3 | C18H16O3
reactant | α-cyclodextrin | 3.70 mmoles, 4.0 g | C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@H](O2)[C@@H]([C@H]7O)O)CO)CO)CO)CO)CO)O)O)O | C36H60O30
reactant | water | 2 ml | O | H2O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | Ipriflavon α-cyclodextrin | CC(C)OC=1C=CC2=C(C1)OC=C(C2=O)C=3C=CC=CC3.C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@H](O2)[C@@H]([C@H]7O)O)CO)CO)CO)CO)CO)O)O)O | InChI=1S/C36H60O30.C18H16O3/c37-1-7-25-13(43)19(49)31(55-7)62-26-8(2-38)57-33(21(51)15(26)45)64-28-10(4-40)59-35(23(53)17(28)47)66-30-12(6-42)60-36(24(54)18(30)48)65-29-11(5-41)58-34(22(52)16(29)46)63-27-9(3-39)56-32(61-25)20(50)14(27)44;1-12(2)21-14-8-9-15-17(10-14)20-11-16(18(15)19)13-6-4-3-5-7-13/h7-54H,1-6H2;3-12H,1-2H3/t7-,8-,9-,10-,11-,12-,13-,14-,15-,16-,17-,18-,19-,20-,21-,22-,23-,24-,25-,26-,27-,28-,29-,30-,31-,32-,33-,34-,35-,36-;/m1./s1
